US05696112
5,6,7,8-tetrahydro-4H-thieno[3,4-b]azepine
To a mixture of 21.2 g of 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-5-one in 100 ml of tetrahydrofuran under argon, chilled to 0° C. is added 25.2 ml of a 10.0 molar solution of borane-dimethylsulfide in tetrahydrofuran. The solution is stirred at room temperature for 16 hours and is refluxed for 5 hours. The mixture is cooled to room temperature and 85 ml of methanol added dropwise (exotherm). The solvent is removed and 100 ml of methanol is added (2 times) and after each addition the solvent is removed. To the residual solid (dried under vacuum) is added 126 ml of 2N NaOH and the mixture refluxed 3 hours. The mixture is chilled (2 hours) and extracted with dichloromethane. The extract is dried (Na2SO4) and the solvent removed to give 15.4 g of brown solid, m.p. 55°-57° C. A sample (3 g) is sublimed to give 2.6 g of crystals, m.p. 64°-65° C.

reactant | 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-5-one | 21.2 g | S1C=CC=2NC(CCCC21)=O | C8H9NOS
reactant | borane dimethylsulfide | B.CSC
reactant | methanol | 85 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-tetrahydro-4H-thieno[3,4-b]azepine | 15.4 g | N=1C2=C(CCCC1)CSC2 | C8H11NS
